US07723330B2
Step B: Preparation of 4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)aniline:
To a 100 mL round-bottomed flask with stir bar containing 1-(4-methoxybenzyl)-3-methyl-4-(4-nitrophenoxy)-1H-pyrazolo[3,4-b]pyridine (0.185 g, 0.474 mmol) was added MeOH (10 mL) and THF (10 mL) followed by zinc (0.155 g, 2.37 mmol). Next, saturated NH4Cl (0.5 mL) was added with stirring. Concentrated HCl (0.5 mL) was added until all solids dissolved (except for some zinc powder) and the pH had dropped to 2. The reaction was stirred for 18 hours at room temperature. The reaction was concentrated and partitioned between EtOAc (100 mL) and 1:1 saturated NaHCO3/water (100 mL). The aqueous phase washed with EtOAc (75 mL). The combined organic phases were washed with brine (50 mL), dried (Na2SO4), filtered, and concentrated in vacuo. The product (160 mg, 82%) was obtained as a yellow gum. LRMS (esi pos) m/e 361 (M+1).

reactant | 1-(4-methoxybenzyl)-3-methyl-4-(4-nitrophenoxy)-1H-pyrazolo[3,4-b]pyridine | 0.474 mmol, 0.185 g | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=CC=C(C=C3)[N+](=O)[O-])C)C=C1 | C21H18N4O4
reactant | MeOH | 10 mL | CO | CH4O
reactant | NH4Cl | 0.5 mL | [NH4+].[Cl-]
reactant | HCl | 0.5 mL | Cl | ClH
catalyst | zinc | 2.37 mmol, 0.155 g | [Zn] | Zn
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)aniline | 160 mg, 82% | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=CC=C(N)C=C3)C)C=C1 | C21H20N4O2
